US08871753B2
Step B: tert-Butyl (3-{[(3-nitrobenzyl)thio]methyl}phenyl)carbamate
A solution of cesium carbonate (0.57 g, 1.8 mmol) in N,N-dimethylformamide (1.8 mL) at 0° C. was treated with (3-nitrophenyl)methanethiol (0.22 mL, 1.6 mmol) dropwise and stirred at 0° C. for 10 min. The reaction mixture was treated with a solution of 3-[(tert-butoxycarbonyl)amino]benzyl methanesulfonate (0.41 g, 1.3 mmol) in N,N-dimethylformamide (2.4 mL) dropwise and stirred at 0° C. for 30 min. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (40 mL) and brine (20 mL). The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and evaporated to a crude brown oil. This material was purified by flash column chromatography to give the desired product (0.42 g, 84% for 2 steps) as a yellow oil. LCMS for C19H22N2O4SNa (M+Na)+: m/z=396.7.

reactant | cesium carbonate | 1.8 mmol, 0.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3-nitrophenyl)methanethiol | 1.6 mmol, 0.22 mL | [N+](=O)([O-])C=1C=C(C=CC1)CS | C7H7NO2S
reactant | 3-[(tert-butoxycarbonyl)amino]benzyl methanesulfonate | 1.3 mmol, 0.41 g | CS(=O)(=O)OCC1=CC(=CC=C1)NC(=O)OC(C)(C)C | C13H19NO5S
solvent | N,N-dimethylformamide | 1.8 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (3-{[(3-nitrobenzyl)thio]methyl}phenyl)carbamate | 0.42 g, 84% | [N+](=O)([O-])C=1C=C(CSCC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C19H22N2O4S
